US05866576
A mixture of 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine and 30% hydrogen bromide in acetic acid (0.8 mL, 3.90 mmol) was stirred for 90 minutes. The solution was poured into a mixture of water (10 mL), sodioum bicarbonate (1.35 g, and dichloromethane (10 mL). After 10 minutes of vigorous stiring, the layers were separated and the aqueous portion extracted with dichloromethane (3×15 mL). The combined organic phases were dried over sodium sulfate and the solvent evaporated under vacuum, yielding 550 mg (96%) 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine as a yellow oil. Without further purification, the oil was dissoved in methanol (5 mL) and then a 1M solution of sodium methoxide in methanol (1.4 mL) was added. After 30 minutes, the reaction mixture was poured into water (30 mL) and was extracted with dichloromethanone (3×40 mL). The combined organic portions were dried over sodium sulfate and the solvents evaporated under vacuum. The solid residue was recrystallized (dichloromethane-petroleum ether) to yield 380 mg (91% yield) 1-(8,9-oxidononyl)-3,7-dimethylxanthine (inventive compound no. 1560).

reactant | 1-(8,9-dihydroxynonyl)-3,7-dimethylxanthine | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 3.90 mmol, 0.8 mL | C(C)(=O)O | C2H4O2
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-(8-acetoxy-9-bromononyl)-3,7-dimethylxanthine | 550 mg, 96% | C(C)(=O)OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C18H27BrN4O4
